* g:\Shared drives\IAMSYbElectronics\Projects\LPFilters_Elliptical_Mike\LTSpice Files\LPFilter_5kHz_Elliptical\LPFilter_5kHz_Elliptical.asc
* Generated by LTspice 24.1.10 for Windows.
Vin N001 0 AC 1 Rser=50
C1 N001 0 673.7n
C2 N002 N001 70.62n
L1 N002 N001 1.997m
C3 N002 0 1.090µ
C4 Vout1 N002 198.9n
L2 Vout1 N002 1.653m
C5 Vout1 0 570.9n
RL Vout1 0 50
Vin1 N003 0 AC 1 Rser=50
C6 N003 0 680n
C7 N004 N003 68n
L3 N004 N003 2m Rser=12.35
C8 N004 0 1µ
C9 Vout2 N004 200n
L4 Vout2 N004 1.8m Rser=11.7
C10 Vout2 0 560n
RL1 Vout2 0 50
.ac dec 100 2000 20000
* .ac dec 100 2000 20000
* Ideal Circuit
* Actual Parts from JLCPCB
.backanno
.end
